US06617339B1
5(R)-Isoxazol-3-yloxymethyl-3-(4-bromo-pyrid-2-yl)-oxazolidin-2-one
To a stirred solution of 5(R)-hydroxymethyl-3-(4-bromo-pyrid-2-yl)oxazolidin-2-one (EP 694543; 3.75 g, 13.7 mmol), 3-hydroxyisoxazole (1.28 g, 15.1 mmol) and triphenylphosphine(4.31 g, 16.4 mmol) in anhydrous THF (83 ml), was added dropwise diisopropyl azodicarboxylate(3.20 g, 3.11 ml, 15.8 mmol) and stirred at room temperature for 5h. The solvent was then removed by rotary evaporation and purification by MPLC (Merck 9385 silica, eluting with CH2Cl2) and trituration with diethyl ether gave the title compound as a white solid (2.93 g, 63%)

reactant | 5(R)-hydroxymethyl-3-(4-bromo-pyrid-2-yl)oxazolidin-2-one | 13.7 mmol, 3.75 g | OC[C@H]1CN(C(O1)=O)C1=NC=CC(=C1)Br | C9H9BrN2O3
reactant | 3-hydroxyisoxazole | 15.1 mmol, 1.28 g | OC1=NOC=C1 | C3H3NO2
reactant | triphenylphosphine | 16.4 mmol, 4.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 15.8 mmol, 3.11 ml, 3.20 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 83 ml | C1CCOC1 | C4H8O
product | 5(R)-Isoxazol-3-yloxymethyl-3-(4-bromo-pyrid-2-yl)-oxazolidin-2-one | 2.93 g, 63% | O1N=C(C=C1)OC[C@H]1CN(C(O1)=O)C1=NC=CC(=C1)Br | C12H10BrN3O4
